US06699992B2
82.9 g of ethyl 2,4,6-trichloro-3,5-difluorobenzoylacetate (0.25 mol), 66.6 g of triethyl orthoformate (0.45 mol) and 77.4 g of diacetyl oxide (0.72 mol) were stirred at 150° C. for 2.5 hours. Fractions having a lower boiling point were evaporated under reduced pressure. To the residue was added 250 ml of anhydrous ethanol. 14.5 g of cyclopropylamine (0.25 mol) was added to the solution under cooling of ice water and the reaction was then carried at room temperature for 2 hours. The resultant mixture was filtered under suction. The residue was re-crystallized from a mixture of petroleum ether and cyclohexane to yield 74.5 g (0.187 mol) of ethyl 2-(2,4,6-trichloro-3,5-difluorobenzoyl)-3-cyclopropylaminoacrylate in 74.6% yield.

reactant | ethyl 2,4,6-trichloro-3,5-difluorobenzoylacetate | 0.25 mol, 82.9 g | ClC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1F)Cl)F)Cl | C11H7Cl3F2O3
reactant | triethyl orthoformate | 0.45 mol, 66.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | diacetyl oxide | 0.72 mol, 77.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropylamine | 0.25 mol, 14.5 g | C1(CC1)N | C3H7N
product | ethyl 2-(2,4,6-trichloro-3,5-difluorobenzoyl)-3-cyclopropylaminoacrylate | 0.187 mol, 74.5 g, 74.6% yield | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=C(C(=C1F)Cl)F)Cl | C15H12Cl3F2NO3
